US07423159B2
A mixture of benzyl 4-(2-ethyl-2-hydroxybutyl)phenylcarbamate (6.30 g), 10% palladium carbon (5.0 g) and tetrahydrofuran (150 mL) was subjected to catalytic reduction under a hydrogen atmosphere at atmospheric pressure. The catalyst was removed by filtration, and the filtrate was concentrated to give 3-(4-aminobenzyl)-3-pentanol as colorless crystals (3.51 g, yield 95%). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 85-86° C.

reactant | benzyl 4-(2-ethyl-2-hydroxybutyl)phenylcarbamate | 6.30 g | C(C)C(CC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)(CC)O | C20H25NO3
catalyst | palladium carbon | 5.0 g | [C].[Pd]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-(4-aminobenzyl)-3-pentanol | 3.51 g, yield 95% | NC1=CC=C(CC(CC)(CC)O)C=C1 | C12H19NO
